US08110687B2
Step 4: N-[4-chloro-3-(trifluoromethyl)phenyl]-7-{[2-(4,5-dihydro-1H-imidazol-2-yl)-pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (I-36)
To a solution of N-[4-chloro-3-(trifluoromethyl)phenyl]-7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide (64 mg, 0.17 mmol) and 4-chloro-2-(4,5-dihydro-1H-imidazol-2-yl)pyridine (35 mg, 0.19 mmol) in DMF (1.70 mL) was added Cs2CO3 (170 mg, 0.52 mmol). The mixture was irradiated in a microwave for 200 sec at 200° C. Water was added, and the mixture was extracted with EtOAc. The organic solution was washed with water (3×) and brine, dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography. The product was dissolved in MeOH, and 2.0M HCl in Et2O was added. The solvents were evaporated to give I-36 as a white solid (59 mg, 58%). 1H NMR (300 MHz, CD3OD): δ 8.62 (d, 1H), 8.17 (d, 1H), 7.82-7.78 (m, 1H), 7.63 (d, 1H), 7.53 (d, 1H), 7.25 (d, 1H), 7.21-7.18 (m, 1H), 6.96-6.91 (m, 2H), 4.11 (s, 4H), 3.14-2.82 (m, 5H), 2.24-2.16 (m, 1H), and 2.01-2.90 (m, 1H). LCMS: (FA) ES+ 516.2, ES− 513.2.

reactant | N-[4-chloro-3-(trifluoromethyl)phenyl]-7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.17 mmol, 64 mg | ClC1=C(C=C(C=C1)NC(=O)C1CC2=CC(=CC=C2CC1)O)C(F)(F)F | C18H15ClF3NO2
reactant | 4-chloro-2-(4,5-dihydro-1H-imidazol-2-yl)pyridine | 0.19 mmol, 35 mg | ClC1=CC(=NC=C1)C=1NCCN1 | C8H8ClN3
reactant | Cs2CO3 | 0.52 mmol, 170 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 1.70 mL | CN(C)C=O | C3H7NO
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-7-{[2-(4,5-dihydro-1H-imidazol-2-yl)-pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 59 mg, 58% | ClC1=C(C=C(C=C1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1NCCN1)C(F)(F)F | C26H22ClF3N4O2
